US07531482B2
Preparation of 4-[4-(2-Aminoethyl phenoxy]benzoic acid, tert-butyl ester
Tyramine (700 mg, 5.1 mmol) was added to a magnetically stirred suspension of potassium hydride (35 wt. percent dispersion in oil; 876 mg, 7.64 mmol) in DMF (20 mL) at 25° C. After effervescence stopped, tert-butyl 4-fluorobenzoate (1.0 g, 5.1 mmol) was added. After stirring at 25° C. for 64 hours, the reaction was warmed to 60° C. After 48 h, the reaction was poured into brine and extracted with hexanes (3×25 mL) and ethyl acetate (2×25 mL). Organic layers washed separately with aqueous 2 N NaOH, dried (Na2SO4), then pooled, evaporated and purified by silica gel chromatography (CH2Cl2:MeOH/2:1) to provide 0.98 g of clear oil.

reactant | Tyramine | 5.1 mmol, 700 mg | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | potassium hydride | 7.64 mmol, 876 mg | [H-].[K+]
reactant | tert-butyl 4-fluorobenzoate | 5.1 mmol, 1.0 g | FC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13FO2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-(2-Aminoethyl phenoxy]benzoic acid, tert-butyl ester | 0.98 g | NCCC1=C(OC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=CC=C1 | C19H23NO3
